US08895547B2
(S)-3-(5-Biphenyl-4-yl-5,6,6-trimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-ylamino)-3-phenylpropan-1-ol
Under inert gas, 5.52 ml of a 0.5 N zinc chloride solution in THF were cooled to −75° C., and 1.02 ml of a 1.8 N phenyllithium solution in dibutyl ether was added dropwise. The reaction solution was allowed to come to room temperature and stirred for 30 minutes. Then this solution was added to a solution of 110 mg of [5-(4-bromophenyl)-5,6,6-trimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-1,4,3-oxathiazin-2-yl]-[(S)-3-(tert-butyldimethylsilanyloxy)-1-phenylpropyl]amine and 8 mg of dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium in 3 ml of THF. After stirring at 60° C. for 75 minutes, the reaction solution was concentrated by rotary evaporation. To detach the protecting group, the residue was dissolved in 2 ml of methanol, 0.2 ml of concentrated hydrochloric acid was added and the mixture was stirred at room temperature for 1.5 hours. The reaction solution was concentrated by rotary evaporation and the residue was extracted with 20 ml of dichloromethane and 10 ml of water, and the aqueous phase was washed once again with 10 ml of dichloromethane. The combined organic phases were dried using a phase separator cartridge (Chromabond® PTS) and concentrated by rotary evaporation. The residue was purified by means of normal phase chromatography using a Flashmaster with an n-heptane/ethyl acetate gradient. The product-containing fractions were combined and concentrated by rotary evaporation, and the crude product was purified further in a purification laboratory by means of preparative HPLC. The product-containing fractions were combined, the acetonitrile was removed under reduced pressure, and the aqueous residue was basified with saturated aqueous sodium hydrogencarbonate solution and extracted with dichloromethane. The organic phase was dried over MgSO4 and concentrated by rotary evaporation, and the residue was taken up again in a mixture of acetonitrile and water and lyophilized. This gave the product (39.7 mg) with a molecular weight of 478.6 g/mol (C27H30N2O4S); MS (ESI): m/e=479 (M+H+).

reactant | phenyllithium | 1.8 N | C1(=CC=CC=C1)[Li]
reactant | [5-(4-bromophenyl)-5,6,6-trimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-1,4,3-oxathiazin-2-yl]-[(S)-3-(tert-butyldimethylsilanyloxy)-1-phenylpropyl]amine | 110 mg | BrC1=CC=C(C=C1)C1(S(N=C(OC1(C)C)N[C@@H](CCO[Si](C)(C)C(C)(C)C)C1=CC=CC=C1)(=O)=O)C | C27H39BrN2O4SSi
solvent | THF | C1CCOC1 | C4H8O
solvent | dibutyl ether | C(CCC)OCCCC | C8H18O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
catalyst | zinc chloride | 0.5 N | [Cl-].[Zn+2].[Cl-]
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 8 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (S)-3-(5-Biphenyl-4-yl-5,6,6-trimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-ylamino)-3-phenylpropan-1-ol | 39.7 mg | C1(=CC=C(C=C1)C1(S(N=C(OC1(C)C)N[C@@H](CCO)C1=CC=CC=C1)(=O)=O)C)C1=CC=CC=C1 | C27H30N2O4S
